Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.88608521064
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],3.87399149209
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1]/[C:2](=[C:3](/[H:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:5],1.9400619918
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4][H:5])[C:11]([H:12])([H:13])[H:14],4.87587417725
[C:10][H:11].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-10.5527639402
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.98989150858
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][C:12]([H:13])([H:14])[H:15],1.67916708252
[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7].[H:8]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.121211851580001
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.99270434222
[H:1][C:2](=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:13]([H:14])([H:15])[H:16],7.29343025128
[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-2.3078936099400003
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.61454748499
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],3.898574092180002
[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.6353276545
[H:1][O:2][C:3]#[C:4][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.34080106473
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1],4.142003504780003
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5],2.5799004032700004
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11],3.87271500681
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:8](=[O:9])[H:10].[H:7],4.69548750661
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.58119824699
[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.66255519063
[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3][C@:4]([H:5])([O:6])[C:10]([H:11])([H:12])[H:13],4.86302427131
[H:1][C:2]=[C:3]([H:4])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-0.448531946857
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.55955960468
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-5.24585337321
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9].[H:10],3.96151557575
[H:1][C:2][O:3][C:4]=[C:7]([H:8])[H:9].[O:5][H:6]>>[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-6.21333161691
